US08664401B2
Step B) 4-(4-(4-(3-hydroxypropoxy)phenyl)-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide, which may be prepared as in Preparation 2A (301 mg, 0.622 mmol), 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]propan-1-ol (212 mg, 0.762 mmol), potassium carbonate (434 mg, 3.11 mmol), and tris(dibenzylideneacetone)dipalladium(0) (56.8 mg, 0.062 mmol) were combined into a flask, placed under vacuum and opened to nitrogen. Degassed dimethoxyethane (2.0 mL) and methanol (2.0 mL) were added and the reaction was heated at 80° C. under nitrogen for 16 hours. The reaction was cooled and diluted with ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organics were dried over magnesium sulfate, filtered and evaporated in vacuo onto silica gel. Chromatography on silica gel with a dichloromethane-methanol gradient (1%-25%) eluted 4-(4-(4-(3-hydroxypropoxy)phenyl)-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide as a yellow oil (120 mg, 36.9%). LCMS 521 (M−1).

reactant | 4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | IC1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]propan-1-ol | 0.762 mmol, 212 mg | CC1(OB(OC1(C)C)C1=CC=C(OCCCO)C=C1)C | C15H23BO4
reactant | potassium carbonate | 3.11 mmol, 434 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 2.0 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.062 mmol, 56.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | 2.0 mL | CO | CH4O
product | 4-(4-(4-(3-hydroxypropoxy)phenyl)-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | OCCCOC1=CC=C(C=C1)C1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C25H34N2O8S
